US07057042B2
2-(chloromethyl)[1,3]oxazolo[4,5-b]pyridine
2-Amino-3-pyridinol (1.1 g, Chemical Abstracts #16867-03-1) and chloromethyltrimethylorthoformate (2.27 g) were combined in diglyme (in 21 mL) and heated at 80° C. for 6 hours. The mixture was treated with p-toluenesulfonic acid hydrate (4 mg) and heated at 80° C. for an additional 48 hours. The mixture was allowed to cool to room temperature and diluted with chloroform (40 mL) and ethanol (10 mL). The mixture was filtered and the filtrate concentrated under reduced pressure. The residue was dissolved in methanol and filtered again. The resulting filtrate was concentrated under reduced pressure to provide the title compound and then dissolved in acetonitrile (35 mL) and used as a solution in the next step. 1H NMR (CDCl3, 300 MHz) δ 4.82 (2H, s), 7.38 (dd, 1H, J=8.7, 5.4 Hz), 7.89 (dd, 1H, J=8.7, 1.5 Hz), 8.62 (dd, 1H, J=5.4, 1.5 Hz). MS (DCI/NH3) m/z 169 (M+H)+.

reactant | 2-Amino-3-pyridinol | 1.1 g | NC1=NC=CC=C1O | C5H6N2O
reactant | p-toluenesulfonic acid hydrate | 4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | diglyme | 21 mL | COCCOCCOC | C6H14O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(chloromethyl)[1,3]oxazolo[4,5-b]pyridine | ClCC=1OC=2C(=NC=CC2)N1 | C7H5ClN2O
